US05665718
6.24 g (18.2 mmol) of (S)-8-chloro-7-fluoro-9-oxo-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepine-1-carboxamidoxime were stirred with 3.43 g (20 mmol) of chloroacetic anhydride and 40 ml of N,N-dimethylformamide at room temperature for 60 hours and at 105° for 2.5 hours. By evaporation of the reaction mixture and chromatography of the residue on silica gel while eluting with methylene chloride/methanol 19/1 there were obtained 1.88 g (26%) of (S)-8-chloro-1-(5-chloromethyl-1,2,4-oxadiazol-3-yl)-7-fluoro-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one of m.p. 214°-217°.

reactant | (S)-8-chloro-7-fluoro-9-oxo-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepine-1-carboxamidoxime | 18.2 mmol, 6.24 g | ClC1=C(C=CC2=C1C(N1[C@H](C=3N2C=NC3C(N)=NO)CC1)=O)F | C14H11ClFN5O2
reactant | chloroacetic anhydride | 20 mmol, 3.43 g | ClCC(=O)OC(CCl)=O | C4H4Cl2O3
solvent | N,N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | (S)-8-chloro-1-(5-chloromethyl-1,2,4-oxadiazol-3-yl)-7-fluoro-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one | 1.88 g, 26% | ClC1=C(C=CC2=C1C(N1[C@H](C=3N2C=NC3C3=NOC(=N3)CCl)CC1)=O)F | C16H10Cl2FN5O2
